Name:  ___.               Unit No:   ___
 
Admission Date:  ___              Discharge Date:   ___
 
Date of Birth:  ___             Sex:   M
 
Service: MEDICINE
 
Allergies: 
A.C.E Inhibitors / Aspirin / Valsartan
 
Attending: ___
 
Chief Complaint:
SOB, leg swelling
 
Major Surgical or Invasive Procedure:
None
 
History of Present Illness:
___ h/o DM2, HTN, h/o CVA, CRI presented for Epi visit to Dr. 
___ today with CC of difficulty breathing, started on ___ 
and progressivly worsening (not acute onset), that he states was 
precipitated by eating ___ food which he states is on his 
list of "should not eat" foods. He reports compliance with his 
home meds. Associated symptoms include increased fatigue, DOE, 2 
pillow orthopnea, PND, and increased swelling in his lower 
extremities. He denies chest pain at rest or with exertion.  
.  
In clinic, pt noted to have O2 requirement (80% RA, 89% 2L/min, 
90-94% on 3L/min) and acutely volume overloaded with JVD, 
bilateral extremity edema, and bilateral crackles. Also noted to 
have 0.5-1mm ST elevations in V2-V3 which were different from 
___ EKG. Sent to ED for evaluation where pt seen to be 97.9 
157/59 85 20 94% on 2L NC. Pt given ASA 325, Plavix 600, started 
on Hep gtt, also given 750mg PO Levaquin for question of PNA, 
bedside echo, and Cards made aware however pt was not taken to 
cath lab.  
.  
ROS as above, also he does endorse some productive coughing but 
unclear whether sputum or purulent. He is also stating that his 
vision is more blurry, no pain, no curtain coming down over his 
eye, no visual field deficits, but describes little floater/dark 
spots. He specifically denies any neurological deficits, no 
tingling/numbness, no hand/foot clumsiness, no facial droop or 
dysarthria.  
.  
Denies f/c/ns, dysphagia, chest pain, abd pain, n/v/d/c, no 
changes in BM's, no bleeding from anywhere, no dysuria, no 
skin/joint changes.  
.  
On the floor pt appears stable, is conversant in full sentences, 
not in pain, but is obviously volume overloaded and on 2L NC.  
.  

 
Past Medical History:
1. CARDIAC RISK FACTORS: Diabetes, Dyslipidemia, Hypertension  
2. CARDIAC HISTORY:  
-CABG: none noted in ___  
-PERCUTANEOUS CORONARY INTERVENTIONS: none noted in ___  
-PACING/ICD: none noted in ___  
3. OTHER PAST MEDICAL HISTORY:  
.  
Modified from ___ notes:  
CKD, care at ___ for past ___ followed by Dr. ___, 
with recent ___ values in the past several months his Cr has 
been high ___.  
DM2, last A1c 6.7 in ___. Dx ___ yrs ago. Takes Lantus at 
home.  
HTN  
Elevated PSA followed by Dr. ___ bx in ___  
showing chronic inflammation and no malignancy  
Hyperlipidemia  
BPH (Tx with flomax)  
? OSA  
Chronic anemia, baseline Hct ___  
Depression, not treated  
L cerebellar CVA ___  
Erectile dysfunction  
Central vestibular vertigo  
PUD w/+ H. pylori on ___ ___ tx)  
PTH of 119 on ___  
.  

 
Social History:
___
Family History:
 
Father had CVA in ___.  
Mother had DM and colon CA, died in ___.  
Brother CVA age ___. ___ sisters have DM.  

 
Physical Exam:
Afebrile Rarm 135/50 Larm 133/60 66 20 91% on 2L NC FSBS 149  
Appears stated age, sitting on edge of bed, speaking full 
sentences without distress, not using accessory muscles. 
Pleasant.  
Scleral muddying. PERRLA. EOMI.  
JVD to 22cm, visible to earlobe. No carotid bruits. Carotid 
pulsations easily felt.  
Pan inspiratory crackles heard up to scapulae. No E to A 
changes. No dullness to percussion. Good air movement. No 
respiratory distress.  
S1 S2 clear, regular. Early systolic murmur heard at the upper 
sternal borders and decreasing towards the apex. No S3 or S4.  
Abd obese NT ND, BS are positive  
Pitting edema worst below the knee but going up to the thighs. 
Radials and DP's are palpable.  
CN's ___ intact, no dysarthria, no facial dyssymetry. Strength 
is ___ in all 4 extremities. Sensation is intact. No focal neuro 
deficits noted.  

 
Pertinent Results:
ADMISSION LABS:
.

___ 11:55AM BLOOD WBC-7.8 RBC-4.19* Hgb-11.5* Hct-36.7* 
MCV-87 MCH-27.4 MCHC-31.4 RDW-16.0* Plt ___
___ 11:55AM BLOOD Neuts-88.5* Lymphs-7.4* Monos-2.0 Eos-2.1 
Baso-0.1
___ 11:55AM BLOOD ___ PTT-24.4 ___
___ 11:55AM BLOOD Glucose-179* UreaN-40* Creat-3.2* Na-145 
K-5.3* Cl-112* HCO3-25 AnGap-13
___ 05:55AM BLOOD Glucose-74 UreaN-48* Creat-3.5* Na-145 
K-5.3* Cl-112* HCO3-25 AnGap-13
___ 11:55AM BLOOD CK-MB-5 proBNP-4785*
___ 11:55AM BLOOD Calcium-9.0 Phos-4.0 Mg-2.6
___ 05:55AM BLOOD Calcium-8.6 Phos-4.6* Mg-2.5
.
CARDIAC ENZYMES:
.
___ 11:55AM BLOOD cTropnT-0.10*
___ 05:15PM BLOOD CK-MB-5 cTropnT-0.09*
___ 05:55AM BLOOD CK-MB-4 cTropnT-0.09*
___ 11:55AM BLOOD CK(CPK)-232
___ 05:15PM BLOOD CK(CPK)-196
___ 05:55AM BLOOD CK(CPK)-152
.
DISCHARGE LABS:
.

___ 07:30AM BLOOD WBC-6.2 RBC-4.39* Hgb-11.9* Hct-36.8* 
MCV-84 MCH-27.1 MCHC-32.4 RDW-15.5 Plt ___
___ 07:20AM BLOOD ___ PTT-48.1* ___
___ 07:30AM BLOOD Glucose-112* UreaN-82* Creat-4.2* Na-140 
K-4.5 Cl-99 HCO3-29 AnGap-17
___ 07:30AM BLOOD Calcium-9.4 Phos-3.9 Mg-2.2
.
.
___ ECHO
 
Results  Measurements  Normal Range  
Left Atrium - Long Axis Dimension:  *4.8 cm  <= 4.0 cm  
Left Atrium - Four Chamber Length:  5.1 cm  <= 5.2 cm  
Left Atrium - Peak Pulm Vein S:  0.5 m/s     
Left Atrium - Peak Pulm Vein D:  0.5 m/s     
Left Atrium - Peak Pulm Vein A:  0.1 m/s  < 0.4 m/s  
Right Atrium - Four Chamber Length:  *5.2 cm  <= 5.0 cm  
Left Ventricle - Septal Wall Thickness:  *1.3 cm  0.6 - 1.1 cm  
Left Ventricle - Inferolateral Thickness:  *1.3 cm  0.6 - 1.1 cm 
 
Left Ventricle - Diastolic Dimension:  5.0 cm  <= 5.6 cm  
Left Ventricle - Systolic Dimension:  3.0 cm     
Left Ventricle - Fractional Shortening:  0.40  >= 0.29  
Left Ventricle - Ejection Fraction:  70%  >= 55%  
Left Ventricle - Stroke Volume:  56 ml/beat     
Left Ventricle - Cardiac Output:  4.48 L/min     
Left Ventricle - Cardiac Index:  2.18  >= 2.0 L/min/M2  
Left Ventricle - Lateral Peak E':  *0.08 m/s  > 0.08 m/s  
Left Ventricle - Septal Peak E':  *0.07 m/s  > 0.08 m/s  
Left Ventricle - Ratio E/E':  *19  < 15  
Aorta - Sinus Level:  3.1 cm  <= 3.6 cm  
Aorta - Ascending:  3.1 cm  <= 3.4 cm  
Aortic Valve - Peak Velocity:  1.7 m/sec  <= 2.0 m/sec  
Aortic Valve - LVOT VTI:  22     
Aortic Valve - LVOT diam:  1.8 cm     
Mitral Valve - E Wave:  1.4 m/sec     
Mitral Valve - A Wave:  0.7 m/sec     
Mitral Valve - E/A ratio:  2.00     
Mitral Valve - E Wave deceleration time:  *138 ms  140-250 ms  
TR Gradient (+ RA = PASP):  *40 to 51 mm Hg  <= 25 mm Hg  
 
Findings  
Intravenous administration of echo contrast was used due to poor 
native endocardial border definition.  

RIGHT ATRIUM/INTERATRIAL SEPTUM: Mildly dilated RA. 

LEFT VENTRICLE: Mild symmetric LVH. Normal regional LV systolic 
function. Overall normal LVEF (>55%). TDI E/e' >15, suggesting 
PCWP>18mmHg. No resting LVOT gradient. 

RIGHT VENTRICLE: Normal RV chamber size and free wall motion. 

AORTA: Normal aortic diameter at the sinus level. Focal 
calcifications in aortic root. Normal ascending aorta diameter. 
Focal calcifications in ascending aorta. 

AORTIC VALVE: Mildly thickened aortic valve leaflets (3). No AS. 
No AR. 

MITRAL VALVE: Mildly thickened mitral valve leaflets. No MVP. 
Mild mitral annular calcification. Mild thickening of mitral 
valve chordae. Calcified tips of papillary muscles. No MS. ___ 
(1+) MR. 

___ VALVE: Normal tricuspid valve leaflets with trivial 
TR. Normal tricuspid valve supporting structures. No TS. Normal 
PA systolic pressure. 

PULMONIC VALVE/PULMONARY ARTERY: Normal pulmonic valve leaflet. 
No PS. Physiologic PR. Normal main PA. No Doppler evidence for 
PDA 

PERICARDIUM: No pericardial effusion.  
Conclusions  
There is mild symmetric left ventricular hypertrophy. Regional 
left ventricular wall motion is normal. Overall left ventricular 
systolic function is normal (LVEF 70%). Tissue Doppler imaging 
suggests an increased left ventricular filling pressure 
(PCWP>18mmHg). Right ventricular chamber size and free wall 
motion are normal. The aortic valve leaflets (3) are mildly 
thickened but aortic stenosis is not present. No aortic 
regurgitation is seen. The mitral valve leaflets are mildly 
thickened. There is no mitral valve prolapse. Mild (1+) mitral 
regurgitation is seen. The estimated pulmonary artery systolic 
pressure is normal. There is no pericardial effusion. 

Compared with the findings of the prior study (images not 
available) of ___, probably no major change.   

___ EKG
Baseline artifact. Probable sinus rhythm. Low limb lead voltage. 
Consider 
anteroseptal Q wave infarction. Inferior and lateral T wave 
abnormalities. 
Since the previous tracing of ___ probably no significant 
change. 
  
 
Read by: ___. 
 
  Intervals Axes 
Rate PR QRS QT/QTc P QRS T 
84 170 66 ___ 110 
.
___ CXR
This exam is limited by low inspiratory volumes. Small bilateral 
pleural 
effusions, right greater than left, are present with increased 
pulmonary 
vascular markings and minimal cephalad redistribution, 
suggestive for 
pulmonary edema. Atelectasis is present in both lung bases. The 
cardiac 
silhouette is not well visualized due to low lung volumes. 
Grossly, the 
mediastinal silhouette appears unremarkable. The osseous 
structures are 
intact and no pneumothorax is present. 
  
IMPRESSION: 
Small bilateral pleural effusions, right greater than left, with 
bibasilar atelectasis, and mild pulmonary edema. 

 
Brief Hospital Course:
___ h/o with cardiac risk factors of DM2, HTN, HL, also with 
CKD with baseline Cr ___ and h/o CVA ___ yrs ago presents with 
acute volume overload with elevated JVP, bilateral pitting edema 
to thighs, elevated BNP, and crackles up to ___ll consistent with heart failure exacerbation. 
.
.
1. CORONARIES: No ___ notes of previous caths. Pt without chest 
pain through admission. EKG changes as above are reassuring and 
the Trop leak likely due to demand ischemia and not due to ACS; 
MB's were negative. Given ASA and Plavix in ED but not continued 
on admission. Continued on home Atorvastatin, Metoprolol, 
Amlodipine. Dilt ER was discontinued through admission (see 
below, bradycardia).
.
Unclear what the pt's cause of diastolic heart failure was, and 
pt was scheduled for persantine MIBI but refused it, despite 
being encouraged by several physicians to have it. This could be 
further encouraged at follow up. 
.
2. PUMP: Echo results as above. Given normal EF on today's echo 
and with elevated E/E' ratio, pt likely has acute on chronic 
diastolic heart failure. Previous dc summaries noted for exact 
same problem and also thought to be dietary indiscretion, 
possible med non adherence. 
.
On admission, pt was 93.8 kg, had crackles in all lung fields, 
BLE edema very pitting up to thighs, and jugular pulsation noted 
to above his ear, BNP 4785. Was diuresed initially with Lasix 
gtt until Cr started to rise (see below, renal failure) at which 
point then began to diurese with Lasix boluses (100mg IV bid) 
then transitioned to Torsemide 40mg daily with good effect. Wt 
was about 83kg on discharge and he appeared much less dyspneic, 
lungs clear, JVP much flatter, BLE edema improved but still 
slightly present. 
.
Pt was instructed to stop taking home Lasix 80md daily and start 
Torsemide 40mg daily. 
.
3. RHYTHM: He was in sinus through admission however with one 
episode of sinus bradycardia to the 30's with junctional beats 
noted. Asymptomatic during this episode but dizzy when standing 
up. Pt's beta blockade and Dilt ER were held and bradycardia 
resolved, no further issues. Dilt ER was held on admission but 
beta blockade was added back at a lower dose.  
.
4. Chronic renal insufficiency: Cr 3.2 on admission within 
baseline but rose to 4.8 through admission due to diuresis. 
Renal was consulted and advised continued diuresis despite the 
rise in Cr, noting that this has happened in previous admissions 
and Cr recovered. Diuresis was continued and pt's Cr came down 
to 4.2 on discharge. Renal function should be monitored on 
follow up. 
.  

 
Medications on Admission:
Active Medication list as of ___:  
AMLODIPINE - 10 mg Tablet - 1 Tablet(s) by mouth once a day to  
control blood pressure  
ATORVASTATIN [LIPITOR] - 40 mg Tablet - one Tablet(s) by mouth  
once a day  
DILTIAZEM HCL [CARDIZEM CD] - 360 mg Capsule, Sust. Release 24 
hr  
- 1 Capsule(s) by mouth every day for blood pressure  
DOXERCALCIFEROL [HECTOROL] - 0.5 mcg Capsule - 1 (One) 
Capsule(s)  
by mouth twice a day to maintain level of vitamin D  
FUROSEMIDE - 40 mg Tablet - 2 (Two) Tablet(s) by mouth once a 
day  
for fluid  
INSULIN GLARGINE [LANTUS] - 100 unit/mL Solution - 8 units  
subcutaneously once a day  
METOPROLOL SUCCINATE [TOPROL XL] - 50 mg Tablet Sustained 
Release  
24 hr - 1 (One) Tablet(s) by mouth once a day to control blood  
pressure  
OMEPRAZOLE - 20 mg Capsule, Delayed Release(E.C.) - 1 Capsule(s) 
 
by mouth once a day  
TAMSULOSIN [FLOMAX] - 0.4 mg Capsule, Sust. Release 24 hr - 1  
(One) Capsule(s) by mouth once a day  
TICLOPIDINE - 250 mg Tablet - 1 (One) Tablet(s) by mouth twice a 
 
day  
.  
Medications - ___  
BLOOD SUGAR DIAGNOSTIC [ONE TOUCH ULTRA TEST] - Strip - use to  
test your blood sugar twice a day or as directed 6 month supply  

INSULIN SYRINGE-NEEDLE U-100 [BD INSULIN SYRINGE ULTRA-FINE] - 
30  
gauge X ___ Syringe - Use as directed once a day for insulin  
delivery  
INSULIN SYRINGE-NEEDLE U-100 [BD INSULIN SYRINGE MICRO-FINE] - 
28  
gauge X ___ Syringe - use as directed to administer insulin 
once  
a day  
--------------- --------------- --------------- ---------------  

.  

 
Discharge Medications:
1. Atorvastatin 40 mg Tablet Sig: One (1) Tablet PO DAILY 
(Daily).  
2. Doxercalciferol 0.5 mcg Capsule Sig: One (1) Capsule PO BID 
(2 times a day).  
3. Insulin Glargine 100 unit/mL Solution Sig: Eight (8) units 
Subcutaneous once a day: Please resume your insulin as you were 
before you were admitted: 6 units of Glargine subcutaneously at 
bedtime.  
4. Omeprazole 20 mg Capsule, Delayed Release(E.C.) Sig: One (1) 
Capsule, Delayed Release(E.C.) PO DAILY (Daily).  
5. Tamsulosin 0.4 mg Capsule, Sust. Release 24 hr Sig: One (1) 
Capsule, Sust. Release 24 hr PO HS (at bedtime).  
6. Ticlopidine 250 mg Tablet Sig: One (1) Tablet PO BID (2 times 
a day).  
7. Toprol XL 25 mg Tablet Sustained Release 24 hr Sig: One (1) 
Tablet Sustained Release 24 hr PO once a day.
Disp:*30 Tablet Sustained Release 24 hr(s)* Refills:*2*
8. Amlodipine 10 mg Tablet Sig: One (1) Tablet PO once a day.  
9. Torsemide 20 mg Tablet Sig: Two (2) Tablet PO once a day.
Disp:*60 Tablet(s)* Refills:*2*

 
Discharge Disposition:
Home With Service
 
Facility:
___
 
Discharge Diagnosis:
Acute on chronic diastolic heart failure and volume overload
Acute on chronic renal failure
 
Discharge Condition:
Mental Status:Clear and coherent
Level of Consciousness:Alert and interactive
Activity Status:Ambulatory - Independent
 
Discharge Instructions:
You were admitted with breathing problems, and you were found to 
have fluid in your lungs. You were given intravenous medications 
to help you urinate to remove the fluid from your lungs. Your 
breathing improved. We scheduled a nuclear stress test to 
evaluate your coronary arteries and heart function but you 
refused this test.

The following changes were made to your medication regimen:
1. STOP taking Diltiazem 360mg daily
2. START Torsemide 40 mg once daily. You should follow up 
closely with Dr. ___ this medication
3. STOP taking Lasix 80mg daily 
4. DECREASE Metoprolol XL dose from 50mg daily to 25mg daily. 

Weigh yourself every morning, call MD if weight goes up more 
than 3 lbs.
 
Followup Instructions:
___